US05512431
5-Hydroxydeoxycytidine is synthesized in a similar manner to the published procedure of Eaton et al. (Biochim. Biophys. Acta 319:281-287, 1973) for 5-hydroxydeoxycytidine-3',5'-diphosphate. Bromine is added to a cooled (0° C.) solution of 2'-deoxycytidine (available from Sigma Chemical Company) in water until the yellow color persists. The excess bromine is quenched with cyclohexene and 2,4,6-collidine is added. After 2 hours, the reaction mixture is washed with ether and evaporated to dryness under vacuum. The crude 5-hydroxydeoxycytidine is then purified by reversed-phase HPLC on an Ultrasphere C18 column (Phenomenex) using a linear gradient of 0%-20% B in A (solvent A: 0.1 M NH4OAc, solvent B: 50% CH3CN in 0.1 M NH4OAc).

reactant | 5-hydroxydeoxycytidine-3',5'-diphosphate | P(=O)(O)(O)O[C@H]1C[C@@H](O[C@@H]1COP(=O)(O)O)N1C(=O)N=C(N)C(=C1)O | C9H15N3O11P2
reactant | Bromine | BrBr | Br2
reactant | 2'-deoxycytidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O4
solvent | water | O | H2O
product | 5-Hydroxydeoxycytidine | OC=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C9H13N3O5
